US04696946
(±)-1-BENZOYLOXY-6-ETHOXY-5-OXAEICOS-7-YNE
32 g of ethane-2,2'-{2-pentadecyn-1-ylidene bis(oxy)}bis, 25 g of 4-benzoyloxy-1-butanol, and 100 mg of p-toluene sulfonic acid were refluxed in a dry apparatus in 300 ml of benzene using a Dean-Stark trap. After evaporating 75 ml of solvent, the solution was cooled to room temperature diluted with CHCl3, washed with saturated aqueous NaHCO3, then with water and dried over Na2SO4. The resulting oil (13 g) after evaporation of the solvent was purified by column chromatography (SiO2) (CHCl3). The partially purified compound was rechromatographed (SiO2) (50% Hexanes/CHCl3). Yield: 1.5 g.

reactant | 4-benzoyloxy-1-butanol | 25 g | C(C1=CC=CC=C1)(=O)OCCCCO | C11H14O3
reactant | p-toluene sulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | (±)-1-BENZOYLOXY-6-ETHOXY-5-OXAEICOS-7-YNE | C(C1=CC=CC=C1)(=O)OCCCCOC(C#CCCCCCCCCCCCC)OCC | C28H44O4
